US05565488
N-[3-Methyl-2-(4-methyl-benzoyl)-benzofuran-6-yl]acetamide
0.72 g (3.75 mmol) of N-(4-acetyl-3-hydroxy-phenyl)acetamide and 0.81 g (4.1 mmol) of 2-bromo-4-methylacetophenone were dissolved in 5 ml DMF and 1,55 g (11.25 mmol) of potassium carbonate were added. The suspension was heated to 60° C. for 1 h and ethylacetate was added. The organic phase was washed three times with water, one time with a NaCl solution, dried over Na2SO4 and concentrated in vacuo. The residue was further purified by crystallisation (ethanol).

reactant | N-(4-acetyl-3-hydroxy-phenyl)acetamide | 3.75 mmol, 0.72 g | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)O | C10H11NO3
reactant | 2-bromo-4-methylacetophenone | 4.1 mmol, 0.81 g | CC1=CC=C(C=C1)C(=O)CBr | C9H9BrO
reactant | potassium carbonate | 11.25 mmol, 1,55 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[3-Methyl-2-(4-methyl-benzoyl)-benzofuran-6-yl]acetamide | CC1=C(OC2=C1C=CC(=C2)NC(C)=O)C(C2=CC=C(C=C2)C)=O | C19H17NO3
